US05756507
Step 8F N-{4-[4-(benzyl-{2-[2-(3,5-dimethylphenyl)-5-(3,3-dimethylureido)-1H-indol-3-yl]ethyl}amino)butyl]phenyl}methanesulfonamide
To a stirred solution of N-{4-[4-({2-[5-amino-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl}benzylamino)butyl]phenyl}methanesulfonamide (15 mg in 1.5 mL of dry methylene chloride) at 0° C. was added dimethylcarbamyl chloride (0.03 mL of a 10% v/v solution in methylene chloride) and diisopropylethylamine (0.053 mL of a 10% v/v solution in methylene chloride) and the mixture warmed to room temperature. After 3 days the reaction was concentrated in vacuo and purified by flash chromatography on silica gel (methylene chloride:methanol:ammonium hydroxide, 96:4:1) to give the title compound (17 mg).

reactant | N-{4-[4-({2-[5-amino-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl}benzylamino)butyl]phenyl}methanesulfonamide | 1.5 mL, 15 mg | NC=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCN(CCCCC1=CC=C(C=C1)NS(=O)(=O)C)CC1=CC=CC=C1 | C36H42N4O2S
reactant | dimethylcarbamyl chloride | CN(C(=O)Cl)C | C3H6ClNO
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-{4-[4-(benzyl-{2-[2-(3,5-dimethylphenyl)-5-(3,3-dimethylureido)-1H-indol-3-yl]ethyl}amino)butyl]phenyl}methanesulfonamide | 17 mg | C(C1=CC=CC=C1)N(CCCCC1=CC=C(C=C1)NS(=O)(=O)C)CCC1=C(NC2=CC=C(C=C12)NC(=O)N(C)C)C1=CC(=CC(=C1)C)C | C39H47N5O3S
